US07754737B2
To a solution of (2-amino-3-cyclopentyl-propyl)-methyl-carbamic acid benzyl ester (87 mg, 0.3 mmol) and CDI (48.6 mg, 0.3 mmol) in CH2Cl2 (5 mL) cooled to 0˜5° C. was added DIEA (0.5 mL). After stirring for 30 minutes, a solution of (S)-1-(benzofuran-7-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (95.1 mg, 0.3 mmol) in CH2Cl2 (3 mL) was added dropwise. The reaction mixture was allowed to warm to rt and stirred overnight. The mixture was washed with water (10 mL). The aqueous layer was extracted with CH2Cl2 (2×15 mL) and the combined organic layers were washed with brine, dried over Na2SO4, filtered and evaporated. The residue was purified by prep HPLC to give benzyl (S)-2-((R)-3-((S)-1-(benzofuran-7-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxamido)-3-cyclopentylpropylmethylcarbamate (98.5 mg, 51.9%).

reactant | (2-amino-3-cyclopentyl-propyl)-methyl-carbamic acid benzyl ester | 0.3 mmol, 87 mg | C(C1=CC=CC=C1)OC(N(C)CC(CC1CCCC1)N)=O | C17H26N2O2
reactant | CDI | 0.3 mmol, 48.6 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIEA | 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-1-(benzofuran-7-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 0.3 mmol, 95.1 mg | O1C=CC2=C1C(=CC=C2)[C@@](CCCCOC)(O)[C@H]2CNCCC2 | C19H27NO3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
product | benzyl (S)-2-((R)-3-((S)-1-(benzofuran-7-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxamido)-3-cyclopentylpropylmethylcarbamate | 98.5 mg, 51.9% | O1C=CC2=C1C(=CC=C2)[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)N[C@H](CN(C(OCC2=CC=CC=C2)=O)C)CC2CCCC2 | C37H51N3O6
